US08791107B2
PREPARATION x18: 2-((2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)benzamide
2-((2-Chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)benzonitrile (PREPARATION x17, 140 mg, 0.410 mmol) was dissolved in concentrated sulfuric acid (1 mL) and was stirred overnight at room temperature. Following reaction, the mixture was diluted with ethyl acetate and was washed with aqueous saturated NaHCO3 (2×15 mL) and brine (2×5 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated. The product was purified by LC/MS using a gradient of 20-45% CH3CN (with 0.035% TFA) in H2O (with 0.05% TFA). The pure fractions were combined and lyophilized to afford the title compound as a white solid (147 mg, 99%). 1H NMR (400 MHz, DMSO-d6) δ 2.91-3.05 (m, 2H), 3.10-3.19 (m, 1H), 3.22-3.29 (m, 1H), 3.44-3.49 (m, 1H), 3.63-3.73 (m, 1H), 3.81-3.99 (m, 2H), 4.21-4.29 (m, 1H), 4.36-4.61 (m, 2H), 7.19-7.24 (m, 1H), 7.30-7.50 (m, 5H), 7.78-7.87 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C17H18ClN5O2, 360.11. found 360.2.

reactant | 2-((2-Chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)benzonitrile | 0.410 mmol, 140 mg | ClC1=NC=2N3C(CN(C2C=N1)CC1=C(C#N)C=CC=C1)COCC3 | C17H16ClN5O
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-((2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)benzamide | 147 mg, 99% | ClC1=NC=2N3C(CN(C2C=N1)CC1=C(C(=O)N)C=CC=C1)COCC3 | C17H18ClN5O2
